datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CCCCN(C(=O)c1cc([N+](=O)[O-])ccc1[O-:10])c1ccc(/N=N/c2ccc3c(c2)OCCOCCOCCOCCOCCO3)cc1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CCCCN(C(=O)c1cc([N+](=O)[O-])ccc1[O:10][H:20])c1ccc(/N=N/c2ccc3c(c2)OCCOCCOCCOCCOCCO3)cc1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(C)[NH2:10].O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>CC(C)[NH2+:10][H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CN(C1=[N+:21]([H:20])CCO1)c1ccccc1.O=C(N[NH2:10])c1ccccc1>>CN(C1=[N:21]CCO1)c1ccccc1.O=C(N[NH2+:10][H:20])c1ccccc1 10=20;20,21=21",
"CCCC(=O)[O:21][H:20].c1cc(C2CCCCN2)c[n:10]c1>>CCCC(=O)[O-:21].c1cc(C2CCCCN2)c[n+:10]([H:20])c1 10=20;20,21=21",
"C1CCC[NH:10]CCC1.O=[N+]([O-])[CH:21](SC1=CC=CC=C1)[H:20]>>C1CCC[NH+:10]([H:20])CCC1.O=[N+]([O-])[CH-:21]SC1=CC=CC=C1 10=20;20,21=21",
"CC(C[NH2:10])C(=O)[O-].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC(C[NH2+:10][H:20])C(=O)[O-].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC[N:10](CC)CCCC(C)Nc1ccnc2ccc(OC)cc12.[SH2+]c1ccc2c(ccc[n+:21]2[H:20])c1>>CC[N+:10](CC)(CCCC(C)Nc1ccnc2ccc(OC)cc12)[H:20].[SH2+]c1ccc2c(ccc[n:21]2)c1 10=20;20,21=21",
"C/C(=N\[O-:10])C(CN(C)C)=N[O-].CN(C(=O)c1ccccc1)c1cc[n+:21]([H:20])cc1>>C/C(=N\[O:10][H:20])C(CN(C)C)=N[O-].CN(C(=O)c1ccccc1)c1cc[n:21]cc1 10=20;20,21=21",
"C[N+]1=CC=CC(C(=O)[CH:21](C2=CC=C(Cl)C=C2)[H:20])=C1.O=C([O-])C[O-:10]>>C[N+]1=CC=CC(C(=O)[CH-:21]C2=CC=C(Cl)C=C2)=C1.O=C([O-])C[O:10][H:20] 10=20;20,21=21",
"Nc1ccc(-c2ccc(/N=C/c3ccccc3[O-:10])cc2)cc1.S=C(c1ccccc1)[N:21](Cc1ccccc1)[H:20]>>Nc1ccc(-c2ccc(/N=C/c3ccccc3[O:10][H:20])cc2)cc1.S=C(c1ccccc1)[N-:21]Cc1ccccc1 10=20;20,21=21",
"CCCCCCCCCCCC[N+:21](CC(C)O)(CC(C)O)[H:20].CCOC(=O)CC[N:10](C)C>>CCCCCCCCCCCC[N:21](CC(C)O)CC(C)O.CCOC(=O)CC[N+:10](C)(C)[H:20] 10=20;20,21=21",
"CC(C)(C)c1ccc(C(=O)[O-:10])cc1.O=[N+]([O-])c1[nH]c[n+:21]([H:20])c1Cl>>CC(C)(C)c1ccc(C(=O)[O:10][H:20])cc1.O=[N+]([O-])c1[nH]c[n:21]c1Cl 10=20;20,21=21",
"O=S(=O)([O-])c1cc([O-:10])cc2[nH]ncc12.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=S(=O)([O-])c1cc([O:10][H:20])cc2[nH]ncc12.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC[NH:10]C(C)C(=O)[O-].Nc1nc2nc[nH]c2c([O:21][H:20])[nH+]1>>CC[NH+:10](C(C)C(=O)[O-])[H:20].Nc1nc2nc[nH]c2c([O-:21])[nH+]1 10=20;20,21=21",
"C[N:10]1C[C@@H](C(=O)[O-])C=C2c3cccc4[nH]cc(c34)C[C@@H]21.O=C(Nc1ccc[n+:21]([H:20])c1)c1ccccc1>>C[N+:10]1([H:20])C[C@@H](C(=O)[O-])C=C2c3cccc4[nH]cc(c34)C[C@@H]21.O=C(Nc1ccc[n:21]c1)c1ccccc1 10=20;20,21=21",
"CCN(CC)C(=S)[S:21][H:20].Cc1cc(C)[n:10]c(N)c1>>CCN(CC)C(=S)[S-:21].Cc1cc(C)[n+:10]([H:20])c(N)c1 10=20;20,21=21",
"Cc1c(O)c[n+:21]([H:20])cc1C1CCCCC1.Nc1ccc(S(=O)(=O)[NH-:10])cc1>>Cc1c(O)c[n:21]cc1C1CCCCC1.Nc1ccc(S(=O)(=O)[NH:10][H:20])cc1 10=20;20,21=21",
"C[N+](C)(C)c1ccc([O-:10])cc1.O=C([O-])[C@@H](NCC[NH2+][C@@H](C(=O)[O-])c1ccccc1[O:21][H:20])c1ccccc1O>>C[N+](C)(C)c1ccc([O:10][H:20])cc1.O=C([O-])[C@@H](NCC[NH2+][C@@H](C(=O)[O-])c1ccccc1[O-:21])c1ccccc1O 10=20;20,21=21",
"Cc1ccc([O-:10])c(Cc2cc(C)cc([N+](=O)[O-])c2[O-])c1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Cc1ccc([O:10][H:20])c(Cc2cc(C)cc([N+](=O)[O-])c2[O-])c1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCOCCn1c(CN2CC[NH+](CCCCn3cc(C(=O)[O-:10])cn3)CC2)[nH+]c2ccccc21.O=P([O-])(C([NH2+]Cc1cccnc1)c1ccccc1O)[O:21][H:20]>>CCOCCn1c(CN2CC[NH+](CCCCn3cc(C(=O)[O:10][H:20])cn3)CC2)[nH+]c2ccccc21.O=P([O-])(C([NH2+]Cc1cccnc1)c1ccccc1O)[O-:21] 10=20;20,21=21",
"COC(=O)c1cccc[n:10]1.C[N+:21]1([H:20])[C@@H]2C[C@@H]3C[C@H]1[C@@H](O)[C@H]2O3>>COC(=O)c1cccc[n+:10]1[H:20].C[N:21]1[C@@H]2C[C@@H]3C[C@H]1[C@@H](O)[C@H]2O3 10=20;20,21=21",
"COc1cc(S(C)=O)ccc1-c1cn2ccnc(OC)c2[n:10]1.COc1cccc(C2SCC[NH+:21]2[H:20])c1>>COc1cc(S(C)=O)ccc1-c1cn2ccnc(OC)c2[n+:10]1[H:20].COc1cccc(C2SCC[NH:21]2)c1 10=20;20,21=21",
"Cc1ccc(C2CCC[NH+]2C)c[n:10]1.Clc1ccnc(-c2cccc[n+:21]2[H:20])c1>>Cc1ccc(C2CCC[NH+]2C)c[n+:10]1[H:20].Clc1ccnc(-c2cccc[n:21]2)c1 10=20;20,21=21",
"C[N+]1=CC=CC(C(=O)[CH:21](C2=CC=CC=C2)[H:20])=C1.Clc1ccc(C(Nc2ccccc2)[O-:10])cc1>>C[N+]1=CC=CC(C(=O)[CH-:21]C2=CC=CC=C2)=C1.Clc1ccc(C(Nc2ccccc2)[O:10][H:20])cc1 10=20;20,21=21",
"C1CC[N+:21]2([H:20])CCCCN2C1.Cc1ccc(S(=O)(=O)[N-:10]CCC(N)=[NH2+])cc1>>C1CC[N:21]2CCCCN2C1.Cc1ccc(S(=O)(=O)[N:10](CCC(N)=[NH2+])[H:20])cc1 10=20;20,21=21",
"CC(C)(C)[N:10]1C2CCCC21.CCOC(=O)C(CC)[NH2+:21][H:20]>>CC(C)(C)[N+:10]1([H:20])C2CCCC21.CCOC(=O)C(CC)[NH2:21] 10=20;20,21=21",
"Cc1ccc(S(=O)(=O)N2CC[NH:10]CC2)cc1.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>Cc1ccc(S(=O)(=O)N2CC[NH+:10]([H:20])CC2)cc1.O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].COc1ccc(C[NH2:10])cc1N>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.COc1ccc(C[NH2+:10][H:20])cc1N 10=20;20,21=21",
"CN(C)c1ccc(C2C[N+:21]3([H:20])CCC2CC3)cc1.OC(c1ccncc1)[O-:10]>>CN(C)c1ccc(C2C[N:21]3CCC2CC3)cc1.OC(c1ccncc1)[O:10][H:20] 10=20;20,21=21",
"COc1cc(OC)nc([N:21](S(=O)(=O)c2ccc(O)cc2)[H:20])n1.OCCC[NH2+]CC[NH2:10]>>COc1cc(OC)nc([N-:21]S(=O)(=O)c2ccc(O)cc2)n1.OCCC[NH2+]CC[NH2+:10][H:20] 10=20;20,21=21",
